US05081274
In 28 ml of acetic anhydride was dissolved 50.0 g of 2,6-dichlorophenol and, one or two drops of conc. sulfuric acid were added to the solution The mixture was reacted at 130° C. for 10 minutes to effect acetylation After the reaction, the reaction solution was poured onto 300 ml of ice water and the mixture was extracted with ethyl acetate After drying the ethyl acetate phase over anhydrous magnesium sulfate overnight, the ethyl acetate phase was concentrated to give 58.2 g of colorless oily substance. Next, the oily substance was dissolved in 150 ml of nitrobenzene and 56 8 g of powdery aluminum chloride was gradually added to the solution. The reaction was carried out at 60° to 70° C. for 27 hours to effect Fries rearrangement. After completion of the reaction, the reaction solution was poured onto 1 liter of cold dil. hydrochloric acid and the organic phase was separated from the aqueous phase. The organic phase was extracted with 2N sodium hydroxide aqueous solution After the extraction, the solution was rendered acidic by adding 5N hydrochloric acid thereto followed by extracting with ethyl acetate. After drying over anhydrous magnesium sulfate, the ethyl acetate phase was concentrated to give 38.5 g of 2,6-dichloro-4-acetylphenol as crude crystals. The crystals were recrystallized from hot ethyl acetate to give 19.9 g of pure white 2,6-dichloro-4-acetylphenol. 2,6-dichloro-4-acetylphenol (3,5-dichloro-4-hydroxyacetophenone): C8H6Cl2O2

reactant | 2,6-dichlorophenol | 50.0 g | ClC1=C(C(=CC=C1)Cl)O | C6H4Cl2O
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 1 liter | Cl | ClH
reactant | acetic anhydride | 28 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | sulfuric acid | two drops | S(O)(O)(=O)=O | H2O4S
solvent | nitrobenzene | 150 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 2,6-dichloro-4-acetylphenol | 38.5 g | ClC1=C(C(=CC(=C1)C(C)=O)Cl)O | C8H6Cl2O2
